datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([N:4]([H:15])[H:16])([C:5](=[O:6])[H:17])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:3]([N:4]([H:15])[H:16])(=[C:5]([O:6][H:10])[H:17])[H:14],212.275
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[O:7]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][O:7],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:21],75.39568
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([S:11][H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:12])[H:5].[C:10]([S:11][H:15])([H:13])[H:14],64.0152
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:4][H:13],0.0
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]1[C:7](=[C:8]=[C:9]([H:17])[H:18])[H:16])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[c:1]2[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[C:7]([H:16])=[C:8][C:9]1([H:17])[H:18],83.370384
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:23]([C:22]([H:30])([H:31])[H:32])([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])[H:13])([H:10])([H:11])[H:12],53.095
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29],-8.7864
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([S:21][H:26])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:22])([H:23])[H:24])([S:21][H:26])[H:25],1.2552
[C:0](#[C:1][C:2]1=[C:3][C:4]([H:8])([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7],106.94304
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[C:6][H:10])[H:7].[H:11]>>[C:0](=[C:1]([C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[C:6][H:10])[H:11])[H:7],11.54784
[C:0]([N:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0](=[N:1][H:5])([H:3])[H:4].[H:2][C:6]([H:7])([H:8])[H:9],-4.64424
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[N:1][C:2]([H:6])[H:7])([H:3])[H:4].[H:5][C:8]([H:9])([H:10])[H:11],22.6354
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]([H:15])([H:16])[C:5]([H:17])[C:6]1([H:18])[H:19],24.6856
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:19])([H:20])[H:21])=[C:13]([C:14]([H:22])([H:23])[H:24])[C:15]([H:25])([H:26])[H:27])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:16])[H:17])[H:18])([C:12]([H:19])([H:20])[H:21])[C:13]([C:14]([H:22])([H:23])[H:24])[C:15]([H:25])([H:26])[H:27])[H:4],44.6851
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[H:13].[C:8](=[C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])[H:12],-0.54392
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][C:15]([H:16])([H:17])[H:18],22.932504
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:3])[H:4],16.4431
